US09085576B2
Step 1: 3-Chloro-5-fluoro-6-methoxy-6,7-dihydro-1,7-naphthyridin-8(5H)-one
A pressure bottle was charged with 3-chloro-1,7-naphthyridin-8(7H)-one (Anichem, 15 g, 83 mmol), MeOH (34 ml), acetonitrile (173 ml) and 1-(chloromethyl)-4-fluoro-1,4-diazabicyclo[2.2.2]octane-1,4-diium tetrafluoroborate (Aldrich, 30.9 g, 87 mmol). The mixture was heated to 45-50° C. After 6 hs additional 1-(chloromethyl)-4-fluoro-1,4-diazabicyclo[2.2.2]octane-1,4-diium tetrafluoroborate (2.5 g) was added and heating was continued overnight. Water and EtOAc were added to the cooled reaction mixture and the layers were separated. The aqueous layer was extracted with EtOAc, and the combined organic layers were dried over MgSO4. The filtrate was concentrated under reduced pressure and the residue was triturated with EtOAc. The solid was filtered off and the title compound (15.34 g, 66.5 mmol, 80% yield) was isolated as a white solid. MS m/z=231 [M+H]+. Calculated for C9H8ClFN2O2: 230.0

reactant | 3-chloro-1,7-naphthyridin-8(7H)-one | 83 mmol, 15 g | ClC=1C=NC=2C(NC=CC2C1)=O | C8H5ClN2O
reactant | MeOH | 34 ml | CO | CH4O
reactant | acetonitrile | 173 ml | C(C)#N | C2H3N
reactant | 1-(chloromethyl)-4-fluoro-1,4-diazabicyclo[2.2.2]octane-1,4-diium tetrafluoroborate | 87 mmol, 30.9 g | F[B-](F)(F)F.ClC[N+]12CC[N+](CC1)(CC2)F.F[B-](F)(F)F
reactant | 1-(chloromethyl)-4-fluoro-1,4-diazabicyclo[2.2.2]octane-1,4-diium tetrafluoroborate | 2.5 g | F[B-](F)(F)F.ClC[N+]12CC[N+](CC1)(CC2)F.F[B-](F)(F)F
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | 3-Chloro-5-fluoro-6-methoxy-6,7-dihydro-1,7-naphthyridin-8(5H)-one | 66.5 mmol, 15.34 g, 80% yield | ClC=1C=NC=2C(NC(C(C2C1)F)OC)=O | C9H8ClFN2O2
